US07842688B2
b) tert-Butyl 3-{2-[2-(2-acetylaminoethyl)-5-fluorophenoxy]ethoxy}-4-(4-hydroxyphenyl)piperidine-1-carboxylate
A solution of 5.8 g of tert-butyl 3-{2-[2-(2-acetylaminoethyl)-5-fluorophenoxy]ethoxy}-4-(4-benzyloxyphenyl)piperidine-1-carboxylate in 200 ml of ethyl acetate is hydrogenated at room temperature in the presence of 2.03 g of 10% Pd/C over 15 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The title compound is obtained as a white solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.29 (EtOAc); Rt=4.30.

reactant | tert-butyl 3-{2-[2-(2-acetylaminoethyl)-5-fluorophenoxy]ethoxy}-4-(4-benzyloxyphenyl)piperidine-1-carboxylate | 5.8 g | C(C)(=O)NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCC2=CC=CC=C2)C(=O)OC(C)(C)C)C=C(C=C1)F | C35H43FN2O6
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 2.03 g | [Pd] | Pd
product | tert-Butyl 3-{2-[2-(2-acetylaminoethyl)-5-fluorophenoxy]ethoxy}-4-(4-hydroxyphenyl)piperidine-1-carboxylate | C(C)(=O)NCCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)O)C(=O)OC(C)(C)C)C=C(C=C1)F | C28H37FN2O6
